US07176208B2
The quinoxalin-2-one of the present example is prepared with 4-Methanesulfonyl-benzene-1,2-diamine and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 6-Methanesulfonyl-3-thiophen-2-yl-1H-quinoxalin-2-one.

reactant | 4-Methanesulfonyl-benzene-1,2-diamine | CS(=O)(=O)C=1C=C(C(=CC1)N)N | C7H10N2O2S
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | 6-Methanesulfonyl-3-thiophen-2-yl-1H-quinoxalin-2-one | CS(=O)(=O)C=1C=C2N=C(C(NC2=CC1)=O)C=1SC=CC1 | C13H10N2O3S2
